US05187190
Diethyl azodicarboxylate (1.6 ml) was added dropwise to an ice-bath cooled, stirred, solution of 4-[(2-methyl-1,3-dioxolan-2-yl)methoxy]phenol (2.1 g), 5-phenoxymethyl-3-(2-hydroxyethyl)-oxazolidin-2-one (2.4 g) and triphenylphosphine (2.6 g) in anhydrous tetrahydrofuran (50 ml) under argon. The reaction mixture was left for 64 hours at 22° C. and then the solvent removed under reduced pressure. The residue was dissolved in dichloromethane and the solution seeded with 1,2-dicarbethoxyhydrazine. The solution was allowed to stand for 2 hours, the solid was collected and the filtrate was subjected to chromatography using 45% hexane in ethyl acetate grading to 40% hexane in ethyl acetate as eluent. The appropriate fractions were combined, evaporated, and the residue triturated with cyclohexane to give the 3-[2-(4-(2-methyl-1,3-dioxolan-2-ylmethoxy)phenoxy)ethyl]-5-(phenoxymethyl)oxazolidin-2-one (2.7 g) m.p. 75°-77° C.

reactant | Diethyl azodicarboxylate | 1.6 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-[(2-methyl-1,3-dioxolan-2-yl)methoxy]phenol | 2.1 g | CC1(OCCO1)COC1=CC=C(C=C1)O | C11H14O4
reactant | 5-phenoxymethyl-3-(2-hydroxyethyl)-oxazolidin-2-one | 2.4 g | O(C1=CC=CC=C1)CC1CN(C(O1)=O)CCO | C12H15NO4
reactant | triphenylphosphine | 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-[2-(4-(2-methyl-1,3-dioxolan-2-ylmethoxy)phenoxy)ethyl]-5-(phenoxymethyl)oxazolidin-2-one | 2.7 g | CC1(OCCO1)COC1=CC=C(OCCN2C(OC(C2)COC2=CC=CC=C2)=O)C=C1 | C23H27NO7
